US06313122B1
A. N-(4-Methoxyphenyl)-2-nitro-5-methylbenzamide
To a stirred solution of 4-methoxyaniline (1.4 g, 11 mmol) and 2-nitro-5-methylbenzoic acid (2.0 g, 11 mmol) in dimethylformamide (20 mL) was added 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (3.17 g, 16.5 mmol). After 12 h, the solvent was removed in vacuo. The residue was dissolved in ethyl acetate and washed twice with 1 M aqueous citric acid, once with water, twice with saturated aqueous sodium bicarbonate solution, once with water, and once with saturated aqueous sodium chloride solution. The organic phase was dried (magnesium sulfate), filtered, and concentrated in vacuo. The residue was triturated with diethyl ether, filtered, and dried in vacuo to give 1.57 g (50%) of the title compound as a yellow solid.

reactant | 4-methoxyaniline | 11 mmol, 1.4 g | COC1=CC=C(N)C=C1 | C7H9NO
reactant | 2-nitro-5-methylbenzoic acid | 11 mmol, 2.0 g | [N+](=O)([O-])C1=C(C(=O)O)C=C(C=C1)C | C8H7NO4
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 16.5 mmol, 3.17 g | Cl.CN(CCCN=C=NCC)C
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | N-(4-Methoxyphenyl)-2-nitro-5-methylbenzamide | 1.57 g, 50% | COC1=CC=C(C=C1)NC(C1=C(C=CC(=C1)C)[N+](=O)[O-])=O | C15H14N2O4
